US05049559
6 -(2-chlorophenyl)- 9-(isopropylthiomethylcarbonyl)-7,8,9,10-tetrahydro-1-methyl-4H-pyrido [4',3':4,5] thieno [3,2-f] 1,2,4-triazolo [4,3-a] 1,4-diazepine
Into a one liter reactor fitted with stirring, cooling and warming means and placed under nitrogen circulation were poured 30 ml of dimethylformamide, 20.3 g (0.055 mol) of 6-(2-chlorophenyl)-7, 8, 9, 10 -tetrahydro-1-methyl-4H-pyrido [4',3':4,5] thieno [3,2-f] 1,2,4-triazolo [4,3-a] 1,4-diazepine and 8.9 g (0.058 mol) of isopropyl-thio-acetic acid. After cooling the mixture to 0° C., there were slowly added, under stirring, 12.36 g (0.058 mol) of dicyclohexylcarbodiimide. Stirring was maintained for 4 hours at 0° C. and then for one hour after the reaction mixture had reached room temperature. There were then added 2 g of dicyclohexylcarbodiimide and the mixture was stirred overnight.

reactant | 6-(2-chlorophenyl)-7, 8, 9, 10 -tetrahydro-1-methyl-4H-pyrido [4',3':4,5] thieno [3,2-f] 1,2,4-triazolo [4,3-a] 1,4-diazepine | 0.055 mol, 20.3 g | ClC1=C(C=CC=C1)C1=NCC=2N(C3=C1C1=C(S3)CNCC1)C(=NN2)C | C18H16ClN5S
reactant | isopropyl-thio-acetic acid | 0.058 mol, 8.9 g | C(C)(C)CC(=S)O | C5H10OS
reactant | dicyclohexylcarbodiimide | 0.058 mol, 12.36 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | dicyclohexylcarbodiimide | 2 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 6 -(2-chlorophenyl)- 9-(isopropylthiomethylcarbonyl)-7,8,9,10-tetrahydro-1-methyl-4H-pyrido [4',3':4,5] thieno [3,2-f] 1,2,4-triazolo [4,3-a] 1,4-diazepine | ClC1=C(C=CC=C1)C1=NCC=2N(C3=C1C1=C(S3)CN(CC1)C(=O)CSC(C)C)C(=NN2)C | C23H24ClN5OS2
